US09340547B2
To a suspension of 4-aminopyridine (164 mg, 1.74 mmol) in 3.3 mL of dichloromethane under inert atmosphere was added a 2M solution of trimethyl aluminium in toluene (0.87 mL, 1.74 mmol) and the mixture was stirred during 20 minutes at room temperature. Next, this mixture was cooled in an ice-water bath and a solution of di-tert-butyl 9-((5-chloro-4-oxo-4H-pyrrolo[1,2-d][1,3,4]oxadiazin-2-yl)methyl)-9H-purin-6-ylimidodicarbonate (150 mg, 0.29 mmol) in 2.2 mL of dry dichloromethane was added stirring the mixture during 3 days at room temperature. At the end of this period, the reaction mixture was cooled-down with an ice-water bath and mL of water were added followed by a 5% aqueous solution disodium tartrate dihydrate. The resulting mixture was purified directly by reverse phase chromatography (C-18 silica from Waters, water/1:1 acetonitrile-methanol as eluents 0% to 100%). After purification were obtained 139 mg of tert-butyl 9-(2-(3-chloro-2-(pyridin-4-ylcarbamoyl)-1H-pyrrol-1-ylamino)-2-oxoethyl)-9H-purin-6-ylcarbamate (93% yield).

reactant | 4-aminopyridine | 1.74 mmol, 164 mg | NC1=CC=NC=C1 | C5H6N2
reactant | trimethyl aluminium | C[Al](C)C
reactant | toluene | 1.74 mmol, 0.87 mL | C1(=CC=CC=C1)C | C7H8
reactant | di-tert-butyl 9-((5-chloro-4-oxo-4H-pyrrolo[1,2-d][1,3,4]oxadiazin-2-yl)methyl)-9H-purin-6-ylimidodicarbonate | 0.29 mmol, 150 mg | ClC=1C=CN2N=C(OC(C21)=O)CN2C1=NC=NC(=C1N=C2)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C22H24ClN7O6
reactant | disodium tartrate dihydrate | O.O.C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[Na+]
solvent | dichloromethane | 3.3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2.2 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | tert-butyl 9-(2-(3-chloro-2-(pyridin-4-ylcarbamoyl)-1H-pyrrol-1-ylamino)-2-oxoethyl)-9H-purin-6-ylcarbamate | 139 mg, 93% yield | ClC1=C(N(C=C1)NC(CN1C2=NC=NC(=C2N=C1)NC(OC(C)(C)C)=O)=O)C(NC1=CC=NC=C1)=O | C22H22ClN9O4
